US05969146
8.1. (R)-3-[5-(Methoxymethyl)-2-oxooxazolidin-3yl]benzofuran-6-yl trifluoromethanesulphonate
5.8 ml (0.035 mol) of trifluoromethanesulphonic anhydride are added slowly to a solution, maintained at -20° C., of 7.6 g (0.029 mol) of (R)-5-(methoxymethyl)-3-(6-hydroxybenzofuran-3-yl)oxazolidin-2-one in 60 ml of pyridine. After returning to room temperature, the mixture is poured into ice and is brought to a pH of 6 by means of 2N hydrochloric acid. The product is then extracted with ethyl acetate, the solvent is evaporated under reduced pressure and the product is purified by chromatography on silica gel with a 10/90 mixture of cyclohexane and dichloromethane.

reactant | trifluoromethanesulphonic anhydride | 0.035 mol, 5.8 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | (R)-5-(methoxymethyl)-3-(6-hydroxybenzofuran-3-yl)oxazolidin-2-one | 0.029 mol, 7.6 g | COC[C@H]1CN(C(O1)=O)C1=COC2=C1C=CC(=C2)O | C13H13NO5
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | (R)-3-[5-(Methoxymethyl)-2-oxooxazolidin-3yl]benzofuran-6-yl trifluoromethanesulphonate | FC(S(=O)(=O)OC1=CC2=C(C(=CO2)N2C(O[C@H](C2)COC)=O)C=C1)(F)F | C14H12F3NO7S
